US06194425B1
A suspension of 5-chlorotetrazolo[1,5-a][1,7]naphthyridine (20 g) in isobutylamine (100 mL) was heated at reflux for several hours. The reaction mixture was concentrated under vacuum. The residue was taken up in dichloromethane, washed with water, dried over magnesium sulfate then concentrated under vacuum. The residue was recrystallized from toluene to give a material that was a mixture by thin layer chromatography. The material was purified by flash chromatography, silica gel eluting with dichloromethane, 5-20% ethyl acetate in dichloromethane, and 10% methanol in dichloromethane. The fractions with the slower moving material were concentrated to provide N5-(2-methylpropyl)tetrazolo[1,5-a][1,7]naphthyridin-5-amine as a solid, m.p. 220-221° C. Analysis: Calculated for C12H14N6: % C, 59.49; % H, 5.82; % N, 34.69; Found: % C, 59.35; % H, 5.89; % N, 34.88.

reactant | 5-chlorotetrazolo[1,5-a][1,7]naphthyridine | 20 g | ClC1=CC=2N(C3=CN=CC=C13)N=NN2 | C8H4ClN5
solvent | isobutylamine | 100 mL | C(C(C)C)N | C4H11N
product | N5-(2-methylpropyl)tetrazolo[1,5-a][1,7]naphthyridin-5-amine | CC(CNC1=CC=2N(C3=CN=CC=C13)N=NN2)C | C12H14N6
